US04562281
To a 300-ml four-necked flask equipped with a thermometer, stirring apparatus and condenser were added 34.51 g (0.10 mole) of 2,2'-methylenebis(6-tert-butyl-4-methylphenol), 50 g of toluene and 11.13 g (0.11 mole) of triethylamine. After replacing the air in the container with nitrogen, 10.20 g (0.11 mole) of propionyl chloride was added dropwise. After completion of the dropwise addition, after-treatment was carried out in the same manner as in Comparative example 1 to obtain 35.0 g of 2,2'-methylenebis(6-tert-butyl-4-methylphenol) monopropionate as a white crystal. Melting point, 108°-111° C. Yield, 88.4%.

reactant | 2,2'-methylenebis(6-tert-butyl-4-methylphenol) | 0.10 mole, 34.51 g | C(C1=C(C(=CC(=C1)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C23H32O2
reactant | triethylamine | 0.11 mole, 11.13 g | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 0.11 mole, 10.20 g | C(CC)(=O)Cl | C3H5ClO
solvent | toluene | 50 g | C1(=CC=CC=C1)C | C7H8
product | 2,2'-methylenebis(6-tert-butyl-4-methylphenol) monopropionate | 35.0 g | C(CC)(=O)OC1=C(C=C(C=C1C(C)(C)C)C)CC1=C(C(=CC(=C1)C)C(C)(C)C)O | C26H36O3
